US07964608B2
1-Cyclopentyl-7-methoxy-3-phenethyl-1H-pyrimido[5,4-c]quinoline-2,4-dione (20 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and (2-phenyl)ethyl isocyanate (0.5 mmol) following general procedure C. LCMS: m/z 416 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | (2-phenyl)ethyl isocyanate | 0.5 mmol | C1(=CC=CC=C1)CCN=C=O | C9H9NO
product | 1-Cyclopentyl-7-methoxy-3-phenethyl-1H-pyrimido[5,4-c]quinoline-2,4-dione | 20 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)CCC2=CC=CC=C2)=O | C25H25N3O3
